US09289430B2
2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)thiazol-2-yl)-benzamide
To a solution of 5-chloro-2-nitro-N-(5-(3-(trifluoromethyl)phenyl)thiazol-2-yl)benzamide (2.6 g, 6.08 mmol, 1.00 equiv) in N,N-dimethylformamide (20 mL) was added and piperidine (20 mL) and the resulting solution was stirred for 3 h at 100° C. in an oil bath. The mixture was diluted with 200 mL of ethyl acetate, washed with 2×50 mL of brine, dried over anhydrous sodium sulfate and then concentrated under vacuum to give 2.2 g (76%) of product as a yellow solid.

reactant | 5-chloro-2-nitro-N-(5-(3-(trifluoromethyl)phenyl)thiazol-2-yl)benzamide | 6.08 mmol, 2.6 g, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC=2SC(=CN2)C2=CC(=CC=C2)C(F)(F)F)C1)[N+](=O)[O-] | C17H9ClF3N3O3S
reactant | piperidine | 20 mL | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)thiazol-2-yl)-benzamide | 2.2 g, 76% | [N+](=O)([O-])C1=C(C(=O)NC=2SC(=CN2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C22H19F3N4O3S
